US04374829
In the manner decribed in Example 54, 4-methyl-2-oxopentanoic acid and L-histidyl-L-leucine are condensed in the presence of sodium cyanoborohydride to yield N-(1-carboxy-3-methylbutyl)-L-histidyl-L-leucine. In this case the product is eluted from the ion exchange resin with 10% ammonia. The mass spectrum shows a molecular ion at 408 m/e for the disilylated species minus 18. The nmr spectrum is consistent with structure.

reactant | 4-methyl-2-oxopentanoic acid | CC(CC(C(=O)O)=O)C | C6H10O3
reactant | L-histidyl-L-leucine | N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC(C)C)C(=O)O | C12H20N4O3
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
product | N-(1-carboxy-3-methylbutyl)-L-histidyl-L-leucine | C(=O)(O)C(CC(C)C)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC(C)C)C(=O)O | C18H30N4O5
